US08669266B2
(iii) 4-[2-(3,3-Difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester
To a solution of 900 mg 4-Carboxymethoxy-7-methyl-quinoline-2-carboxylic acid methyl ester in 5 ml DMF were added 902 mg pentafluorophenol and 940 mg EDC. The mixture was stirred under exclusion of moisture until LCMS indicated complete conversion to the corresponding pentafluorophenolester. 3,3-Difluoropyrrolidine hydrochloride (455 mg) was mixed with 1.2 ml N-ethylmorpholine and 5 ml DMF and this mixture added dropwise to the solution of the pentafluorophenolester. After 12 h the reaction mixture was diluted with DCM and washed with aqueous LiCl (4%), saturated aqueous NaHCO3 and brine. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica eluting with ethyl acetate/heptane gradient. Yield: 815 mg.

reactant | 4-Carboxymethoxy-7-methyl-quinoline-2-carboxylic acid methyl ester | 900 mg | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)O)C | C14H13NO5
reactant | pentafluorophenol | 902 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | 3,3-Difluoropyrrolidine hydrochloride | 455 mg | Cl.FC1(CNCC1)F
reactant | N-ethylmorpholine | 1.2 ml | C(C)N1CCOCC1 | C6H13NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EDC | 940 mg
product | 4-[2-(3,3-Difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1CC(CC1)(F)F)C | C18H18F2N2O4
